2119-08-05 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2119-8-4**] 11:27 PM
   right IJ dialysis cath placed
   with VIP port
   o/n events: R IJ HD catheter placed and HD started for lactic
   acidosis/hyperkalemia.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-5**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 73 (61 - 77) bpm
   BP: 66/43(49) {66/43(49) - 125/67(82)} mmHg
   RR: 16 (15 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,033 mL
                                                                    147 mL
   PO:
             90 mL
   TF:
   IVF:
                                                                    275 mL
                                                                     57 mL
   Blood products:
                                                                  1,758 mL
   Total out:
                                                                     91 mL
                                                                    309 mL
   Urine:
                                                                     91 mL
                                                                    109 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,942 mL
                                                                   -162 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   Gen- Alert to voice, unable to ascertain MS due to language barrier,
   but appears to be understanding and conversant
   HEENT- NCAT, no JVD
   Pulm- B/L end-expiratory wheeze posteriorly
   CV- S1/S2 w/o MGR
   Abd- Soft, Severely distended, not tight.  +BS.  No percussive
   tenderness.
   Ext- 1+ LE edema b/l, 2+ DP pulses.
   Labs / Radiology
   248
   11.8
   99 mg/dL
   7.5 mg/dL
   10
   5.6 mEq/L
   87 mg/dL
   95
   133
   34.7
   21.3
        [image002.jpg]
                             [**2119-8-4**]  11:47 PM
   Cr
   7.5
   Glucose
   99
   Other labs: Lactic Acid:8.7 mmol/L, Mg++:3.4 mg/dL   INR 2.2
   Peritoneal fluid: WBC 33, PMN 25.
   Imaging: CXR- R IJ in place, atelectesis
   CT abd/pelvis prelim- large ascites, ? gastric outlet obstruction, and
   no evidence of bowel ischemia.
   KUB - pending read
   Microbiology: Bcx pending
   Ucx pending
   Ascites analysis pending, gram stain negative
   Assessment and Plan
   This is a 63 year old Portuguese-speaking man with end-stage liver
   disease and stenosed TIPS, recurrent admissions for hepatic
   encephalopathy, now here with abdominal pain and a WBC of 21.3 with a
   neutrophil predominance.
 ASCITES
   Likely related to massive ascites [**1-23**] likely hepatorenal syndrome. No
   evidence of SBP given low WBC on diagnostic tap; tap appears bloody;
   most likely [**1-23**] coagulopathy, though consistent appearance of this
   finding might suggest hemoperitoneum from another process rather than
   from trauma from tap; CT apparently offers no obvious suspect. No sign
   of perf on CT scan. Surgery evaluating per ED request. Possible gastric
   outlet obstruction seen on CT scan; may improve w decrease in ascitic
   fluid.
   - appreciate surgery recs; tplant [**Doctor First Name **] service will follow
   - will give albumin per liver recs p HD per renal recs; albumin will
   also be provided by FFP needed for HD line placement
   - talk to renal and liver service about Tap vs no tap since bladder
   pressure 24 in the setting of hypotension.
   - NGT if not tolerating clears, emesis, etc
   - clear liquid diet for now
 Leukocytosis
   Unclear source. Concern for abdominal source but as above this is not
   clear after dx tap and CT abd/pelvis. I am underwhelmed by CXR but do
   make note of RLL opacity; hard to account for this degree of WBC with
   this small PNA though relative immune suppression of liver/renal
   failure may diminish inflammatory response. High WBC out of proportion
   to symptoms, with abd pain, in pt w multiple hospitalizations, raises
   special concern for c. diff though obvious colitis not seen on CT.
   - covering gram-negatives w zosyn; add vanco and flagyl if worsening
   - Bcx, Ucx pending
   - send c. diff given mult recent hospitalizations
 LIVER CIRRHOSIS, ETOH, w/ encephalopathy
   Hepatorenal syndrome worsens prognosis. Could have been precipitated by
   large volume tap on prior admission, though pt has tolerated similar
   (~5L) in the past. (Note: I initially believed this to have been 10L,
   this was in fact ~5L). Pt has been on transplant list. MELD on
   admission =  41.
   - abd U/S w doppler to eval TIPS stenosis, eval portal circulation
   - daily MELD labs
   - transplant surgery and liver services following, appreciate recs
   - octreotide and midodrine
   - regular lactulose at home dose
   - continue home rifaximin
   - PPI
   - will restart pt's outpt propranolol after completion of HD and
   stabilization of BP
   - hold pt's home diuretics
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Likely [**1-23**] hepatorenal syndrome, perhaps [**1-23**] large volume tap on last
   admission; vs change in hemodynamics [**1-23**] infection. FeNa on admission
   0.6.
   -Zosyn empirically for possible infectious contribution to ARF.
   - HD tonight per renal, appreciate renal involvement and placement of
   HD line w VIP port
   - holding metformin
   - continue midodrine, Octreotide
   - f/u Bcx, Ucx as above
HYPOTENSION
   Possibly due to decreased venous return due to abdominal pressure vs
   infection/sepsis vs hypovolemia due to fluid sequestration as ascites.
   -start levophed for SBP <80 titrate to MAPs > 65.
   -consider TAP for decrease intraabdominal pressure
   -zosyn empirically for infection, consider adding flagyl/vanco if
   appears more toxic.
Hyperkalemia
   Likely in the setting of ESRD at admission, has resolved from 6.5 to
   5.6.
   -Recheck lytes q12
   -Check EKG if K+ increases
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Per family report, patient currently appears to have intact MS,
   however, appears confused at times, with mumbling and groaning on.
   Possibly due to hepatic encephalopathy (NH3 = 66 on admission) vs
   infection, UTI vs SBP, vs acidemia. Remains afebrile
   - Be alert for harmful behavior, use soft restraints if pt begins to
   pull on lines
   - lactulose 30mg PO TID
   - await fluid results from paracentesis, including gram stain, WBC, and
   cx
   - UA
   - holding metforming for lactic acidosis
   - trend lactate
 LACTIC ACIDOSIS
   Most likely [**1-23**] liver failure itself, though metformin toxicity in
   setting of new renal failure may also be responsible. Mesenteric
   ischemia could be culprit; no positive evidence for this at this point,
   but should follow closely.
   - Abd U/S w doppler as above
   - holding metformin and follow lactate as above.
   - follow lactate
   - guaiac stool
 DIABETES
   Holding oral antihyperglycemics based on low blood sugar in ED today.
   ISS alone for now. Has had more issues with high blood sugar than low
   in the past.
   - cont. ISS
   - check FSBG
 COAGULOPATHY
   Assoc w liver failure. Got 6U FFP for HD line placement. Holding
   coumadin for now.
   - continue to trend coags
   - give vit K for goal INR <2.
   - consider FFP for procedures
ACCESS
   Consider adding triple lumen since adding pressor
   -place L IJ triple lumen
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2119-8-4**] 06:48 PM
   Dialysis Catheter - [**2119-8-4**] 11:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Family speaks Portuguese, communication with
   family.
   Code status: Full code
   Disposition:ICU

2119-08-06 06:23:00 Physician Resident Progress Note
Chief Complaint: This is a 63 year old Portuguese-speaking man with
   end-stage liver disease and stenosed TIPS, recurrent admissions for
   hepatic encephalopathy, now here with abdominal pain and a WBC of 21.3
   with a neutrophil predominance and hepatorenal syndrome.
   24 Hour Events:
   Patient hypotensive, started on levophed, quickly weaned (duration 35
   minutes), pressures stable throughout day off pressor
   Arterial line placed
   HD without incidence, 200ml off
   Transfused 1 unit of pRBC without appropriate bump during dialysis
 ARTERIAL LINE - START [**2119-8-5**] 12:15 PM
 ULTRASOUND - At [**2119-8-5**] 01:30 PM
 ULTRASOUND - At [**2119-8-5**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-6**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-6**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 63 (58 - 77) bpm
   BP: 104/44(60) {97/44(0) - 142/101(234)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 87.2 kg
    Bladder pressure: 20 (20 - 24) mmHg
   Total In:
                                                                  1,647 mL
                                                                    128 mL
   PO:
                                                                    390 mL
   TF:
   IVF:
                                                                    382 mL
                                                                    128 mL
   Blood products:
                                                                    875 mL
   Total out:
                                                                    469 mL
                                                                     38 mL
   Urine:
                                                                    269 mL
                                                                     38 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,178 mL
                                                                     90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   Patient moaning, interactive despite language barrier
   Bradycardic to 50
s, S1, S2 normal, II/VI systolic murmur
   Inspiratory crackles at lung bases, diminished breath sounds at bases,
   without wheeze or rub
   Distended abdomen, diffusely tender, prominent bulging umbilicus, no
   bowel sounds appreciated
   Lower ext edema, warm ext
   Positive for asterixis
   Labs / Radiology
   105 K/uL
   8.7 g/dL
   206 mg/dL
   3.5 mg/dL
   23 mEq/L
   4.3 mEq/L
   32 mg/dL
   103 mEq/L
   139 mEq/L
   26.2 %
   6.5 K/uL
         [image002.jpg]
                             [**2119-8-4**]  11:47 PM
                             [**2119-8-5**]  06:08 AM
                             [**2119-8-5**]  09:12 AM
                             [**2119-8-5**]  07:00 PM
                             [**2119-8-5**]  11:28 PM
                             [**2119-8-6**]  04:10 AM
   WBC
   9.8
   10.2
   7.6
   7.4
   6.5
   Hct
   24.5
   24.7
   24.8
   26.0
   26.2
   Plt
   135
   110
   104
   115
   105
   Cr
   7.5
   4.8
   5.2
   2.1
   3.5
   Glucose
   99
   59
   74
   175
   206
   Other labs: PT / PTT / INR:22.2/35.6/2.1, ALT / AST:18/28, Alk Phos / T
   Bili:184/1.8, Differential-Neuts:83.9 %, Lymph:8.7 %, Mono:5.9 %,
   Eos:1.2 %, D-dimer:1656 ng/mL, Fibrinogen:504 mg/dL, Lactic Acid:2.5
   mmol/L, Albumin:3.1 g/dL, LDH:130 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.8 mg/dL
   Fluid analysis / Other labs: FDP 0-10
   Fibrinogen 504
   Haptoglobin 98
   Imaging: Liver ultrasound with doppler
   IMPRESSION:
   1. Large amount of ascites as in prior study.
   2. No improvement in elevated velocities of TIPS, and possibly
   increased in the mid portion, concerning for stenosis, although patent.
   Please note that the main portal vein and its other major branches are
   not assessed in any
   detail on this study.
   3. Coarsened architecture liver without evidence of focal lesion.
   Microbiology: C.Diff pending
   Blood culture pending
   Urine culture pending
   Gram stain of ascites - no bacteria
   Ascites culture - prelim no growth
   Assessment and Plan
   This is a 63 year old Portuguese-speaking man with end-stage liver
   disease and stenosed TIPS, recurrent admissions for hepatic
   encephalopathy, now here with abdominal pain and a WBC of 21.3 with a
   neutrophil predominance, lactic acidosis and hepatorenal disease.
   .
 ASCITES Likely related to massive ascites [**1-23**] likely hepatorenal
   syndrome. No evidence of SBP given low WBC on diagnostic tap; tap
   appears bloody; most likely [**1-23**] coagulopathy, though consistent
   appearance of this finding might suggest hemoperitoneum from another
   process rather than from trauma from tap; CT apparently offers no
   obvious suspect. No sign of perf on CT scan. Surgery evaluating per ED
   request. Possible gastric outlet obstruction seen on CT scan; may
   improve w decrease in ascitic fluid. U/S done, shows partial stenosis
   of the portal vein. No tap at this time due to risk of worsening
   hepatorenal syndrome, however, if worsening hypotension/renal failure,
   may need to tap due to compartment syndrome. Bladder pressure of 24
   yesterday.
   - f/u transplant surgery recs
   - f/u liver recs
 paracentesis of 5L
   - f/u nephrology recs  - HD tomorrow
   - albumin today 100g
   - NGT if not tolerating clears, emesis, etc
   - clear liquid diet for now
   .
 LIVER CIRRHOSIS, ETOH, w/ encephalopathy Hepatorenal syndrome worsens
   prognosis. Could have been precipitated by large volume tap on prior
   admission, though pt has tolerated similar (~5L) in the past. Pt has
   been on transplant list. MELD on admission =  41. U/S shows some
   stenosis from TIPS in protal circulation.
   - transplant surgery and liver services following, appreciate recs
   - octreotide and midodrine
   - regular lactulose at home dose
   - continue home rifaximin
   - omeprazole
   - add propranolol once completed HD and blood pressures stable
   - hold diuretics
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) Likely [**1-23**]
   hepatorenal syndrome, perhaps [**1-23**] large volume tap on last admission;
   vs change in hemodynamics [**1-23**] infection; vs compartment syndrome from
   ascites causing pre-renal picture. FeNa on admission 0.6.
   - Cont zosyn
 d/c when cultures negative
   - Follow up on renal recs for HD plans
   - holding metformin - contributing to lactic acidosis
   .
HYPOTENSION Possibly due to decreased venous return due to abdominal
   pressure vs infection/sepsis vs hypovolemia due to fluid sequestration
   as ascites.
   - start levophed for SBP <80 titrate to MAPs > 65.
   - If patient becomes hypotensive consider tap to decrease
   intra-abdominal pressure
   - zosyn empirically for infection, consider adding flagyl/vanco if
   appears more toxic.
   .

 ALTERED MENTAL STATUS (NOT DELIRIUM) Per family report, patient
   currently appears to have intact mental status, however, appears
   confused at times, with mumbling and groaning on.  Possibly due to
   hepatic encephalopathy (NH3 = 66 on admission) vs infection, UTI vs
   SBP, vs acidemia. Remains afebrile
   - Lactulose - titrate to 3 BM per day
   - follow culture results
   - holding metformin
   - trend lactate
   - restraints if needed
   .
 COAGULOPATHY Assoc w liver failure. Got 6U FFP for HD line placement.
   Holding coumadin for now.
   - continue to trend coags
   - give vit K for goal INR <2.
   - consider FFP for procedures
   .
 LACTIC ACIDOSIS Most likely [**1-23**] liver failure itself, though
   metformin toxicity in setting of new renal failure may also be
   responsible. Mesenteric ischemia could be culprit; no positive evidence
   for this at this point, but should follow closely.
   - trend lactate
   - hold metformin
   - quaiac stool
   - follow AG
   .
 Leukocytosis Unclear source. Concern for abdominal source but as
   above this is not clear after dx tap and CT abd/pelvis, RLL opacity;
   hard to account for this degree of WBC with this small PNA though
   relative immune suppression of liver/renal failure may diminish
   inflammatory response. High WBC out of proportion to symptoms, with abd
   pain, in pt w multiple hospitalizations, raises special concern for c.
   diff though obvious colitis not seen on CT. Resolved since admission.
   - f/u urine, blood and ascites cultures, c.diff toxin
   - continue empiric gram negative coverage with zosyn per liver's
   request
   - consider adding vanco and flagyl if clinical status is worsening
   - trend with CBC with diff
   .
Hyperkalemia Likely in the setting of renal disease at admission, has
   resolved from 6.5 to 5.6. Currently stable at 5.0.
   - Check lytes q12h
   - Check EKG if K+ increases
    .
 LACTIC ACIDOSIS Most likely [**1-23**] liver failure itself, though
   metformin toxicity in setting of new renal failure may also be
   responsible. Mesenteric ischemia could be culprit; no positive evidence
   for this at this point, but should follow closely.
   - trend lactate
   - hold metformin
   - quaiac stool
   - follow AG
   .
 DIABETES Holding oral antihyperglycemics based on low blood sugar in
   ED today. ISS alone for now. Has had more issues with high blood sugar
   than low in the past.
   - cont. ISS
   .
ACCESS
   - if requires further pressors place central line - IJ with ultrasound
   ICU Care
   Nutrition:
   Comments: clear diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2119-8-4**] 11:27 PM
   Arterial Line - [**2119-8-5**] 12:15 PM
   18 Gauge - [**2119-8-5**] 12:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2119-08-06 08:59:00 Physician Attending Progress Note
Chief Complaint: liver failure, hepatorenal syndrome, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2119-8-5**] 12:15 PM
 ULTRASOUND - At [**2119-8-5**] 01:30 PM
 ULTRASOUND - At [**2119-8-5**] 04:00 PM
   Transient Levophed
   Higher dose Midorine and Octreotide
   HD tolerated - only 200 ml negative - given 1 u PRBCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-6**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Octreotide, Midodrine, Lactulose,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-6**] 08:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 62 (50 - 77) bpm
   BP: 83/38(50) {83/37(0) - 142/101(234)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Bladder pressure: 20 (20 - 20) mmHg
   Total In:
                                                                  1,647 mL
                                                                    265 mL
   PO:
                                                                    390 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    382 mL
                                                                    145 mL
   Blood products:
                                                                    875 mL
   Total out:
                                                                    469 mL
                                                                     43 mL
   Urine:
                                                                    269 mL
                                                                     43 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,178 mL
                                                                    222 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Gen: lying in bed, complains of abd pain
   HEENT: op clear
   CV: RR
   Ches: scattered rales with ext wheezes
   Abd: massive distension, absent bowel sounds, tense ascites
   Ex: trace edema
   Neuro: alert and answering questions
   Labs / Radiology
   8.7 g/dL
   105 K/uL
   206 mg/dL
   3.5 mg/dL
   23 mEq/L
   4.3 mEq/L
   32 mg/dL
   103 mEq/L
   139 mEq/L
   26.2 %
   6.5 K/uL
        [image002.jpg]
                             [**2119-8-4**]  11:47 PM
                             [**2119-8-5**]  06:08 AM
                             [**2119-8-5**]  09:12 AM
                             [**2119-8-5**]  07:00 PM
                             [**2119-8-5**]  11:28 PM
                             [**2119-8-6**]  04:10 AM
   WBC
   9.8
   10.2
   7.6
   7.4
   6.5
   Hct
   24.5
   24.7
   24.8
   26.0
   26.2
   Plt
   135
   110
   104
   115
   105
   Cr
   7.5
   4.8
   5.2
   2.1
   3.5
   Glucose
   99
   59
   74
   175
   206
   Other labs: PT / PTT / INR:22.2/35.6/2.1, ALT / AST:18/28, Alk Phos / T
   Bili:184/1.8, Differential-Neuts:83.9 %, Lymph:8.7 %, Mono:5.9 %,
   Eos:1.2 %, D-dimer:1656 ng/mL, Fibrinogen:504 mg/dL, Lactic Acid:2.5
   mmol/L, Albumin:3.1 g/dL, LDH:130 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.8 mg/dL
   US: persistent TIPS stenosis, large ascites
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O ASCITES
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
 .H/O HEPATIC ENCEPHALOPATHY
 .H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O HYPOGLYCEMIA
   1.       Acute Renal Failure: DDX pre renal versus evolving hepatorenal
 he also has a bladder pressure of 24- held off on  repeat tap
   yesterday but will tap today.  Plan for HD tomorrow. Watch lytes and
   renally dose all meds. Try a 1 mg/kg albumin challenge today
   2.       Hypotension: has been more stable
 Aline 20 pts higher. When
   sleeps drops MAP to 55-60 but otherwise OK. Check CVP. Anticipate
   potential fluid shifts and hypotension with tap and will support with
   pressors as needed
   3.       ESLD: MELD is high at 41 with HRS concerning, liver team
   following. Consult transplant surgery following and onogin work up for
   listing.
   4.       Acidosis: lactic- DDX is poor forward flow versus metformin
   induced in setting of liver failure with poor clearance. Resolving.
   Holding metformin, had HD, we will continue to follow
   5.       Leukocytosis: pan culture, will maintain on Zosyn as we await
   data
   6.       DM: continue to check FS closely since was so hypoglycemic on
   arrival
 but now hyperglycemic
   Remaining issues as per Housestaff.
   ICU Care
   Nutrition: clears
   Glycemic Control:
   Lines: Dialysis Catheter - [**2119-8-4**] 11:27 PM
   Arterial Line - [**2119-8-5**] 12:15 PM
   18 Gauge - [**2119-8-5**] 12:30 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  with pt and wife
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 45

2119-08-07 07:58:00 Physician Resident Progress Note
Chief Complaint: This is a 63 year old Portuguese-speaking man with
   end-stage liver disease and stenosed TIPS, recurrent admissions for
   hepatic encephalopathy, now here with abdominal pain and a WBC of 21.3
   with a neutrophil predominance, lactic acidosis, hypotension and
   hepatorenal disease.
   24 Hour Events:
 PARACENTESIS - At [**2119-8-6**] 04:00 PM
   1.       Acute Renal Failure: DDX pre renal versus evolving hepatorenal
 he also has a bladder pressure of 24- held off on  repeat tap
   yesterday but will tap today.  Plan for HD tomorrow. Watch lytes and
   renally dose all meds. Try a 1 mg/kg albumin challenge today
   2.       Hypotension: has been more stable
 Aline 20 pts higher. When
   sleeps drops MAP to 55-60 but otherwise OK. Check CVP. Anticipate
   potential fluid shifts and hypotension with tap and will support with
   pressors as needed
   3.       ESLD: MELD is high at 41 with HRS concerning, liver team
   following. Consult transplant surgery following and onogin work up for
   listing.
   4.       Acidosis: lactic- DDX is poor forward flow versus metformin
   induced in setting of liver failure with poor clearance. Resolving.
   Holding metformin, had HD, we will continue to follow
   5.       Leukocytosis: pan culture, will maintain on Zosyn as we await
   data
   6.       DM: continue to check FS closely since was so hypoglycemic on
   arrival
 but now hyperglycemic
   Got paracentesis of 5L fluid with albumin given,  maintaining MAPs
   100-120s systolic with gram stain, culture pending.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-7**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-7**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 49 (49 - 67) bpm
   BP: 127/51(72) {83/36(50) - 173/75(109)} mmHg
   RR: 15 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 87.2 kg
    CVP: 7 (7 - 212)mmHg
   Total In:
                                                                  1,055 mL
                                                                    450 mL
   PO:
                                                                    320 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    235 mL
                                                                     50 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  5,838 mL
                                                                    215 mL
   Urine:
                                                                    338 mL
                                                                    215 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
                                                                  5,000 mL
   Balance:
                                                                 -4,783 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.41/39/104/24/0
   Physical Examination
   Cardiovascular: comfortable, oriented to person, place, disoriented to
   time
   Abd less tense, distended
   Bladder pressure 18.
   PE: comfortable, continues to moan periodically, denies abdominal pain
   Neuro: A0x3, asterixis
   CV: RRR
   LUNG: scattered rales with expiratory wheeze
   abd: +ve bs, less tense/distended compared to y/d, paracentesis site
   c/d/i, no hematoma
   EXT: trace edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   99 K/uL
   8.7 g/dL
   182 mg/dL
   4.2 mg/dL
   24 mEq/L
   3.8 mEq/L
   38 mg/dL
   103 mEq/L
   138 mEq/L
   25.3 %
   5.2 K/uL
        [image002.jpg]
                             [**2119-8-4**]  11:47 PM
                             [**2119-8-5**]  06:08 AM
                             [**2119-8-5**]  09:12 AM
                             [**2119-8-5**]  07:00 PM
                             [**2119-8-5**]  11:28 PM
                             [**2119-8-6**]  04:10 AM
                             [**2119-8-6**]  03:06 PM
                             [**2119-8-6**]  03:07 PM
                             [**2119-8-6**]  03:17 PM
                             [**2119-8-7**]  04:09 AM
   WBC
   9.8
   10.2
   7.6
   7.4
   6.5
   5.2
   Hct
   24.5
   24.7
   24.8
   26.0
   26.2
   27.8
   25.3
   Plt
   135
   110
   104
   115
   105
   99
   Cr
   7.5
   4.8
   5.2
   2.1
   3.5
   3.8
   4.2
   TCO2
   26
   Glucose
   99
   59
   74
   175
   206
   256
   182
   Other labs: PT / PTT / INR:16.5/33.1/1.5, ALT / AST:18/28, Alk Phos / T
   Bili:184/1.8, Differential-Neuts:79.0 %, Lymph:11.9 %, Mono:6.1 %,
   Eos:2.8 %, D-dimer:1656 ng/mL, Fibrinogen:504 mg/dL, Lactic Acid:2.4
   mmol/L, Albumin:3.1 g/dL, LDH:130 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.9 mg/dL
   Imaging: no new imaging
    ASCITES Likely related to massive ascites [**1-23**] likely hepatorenal
   syndrome.
   Tapped 5L with relief of discomfort, albumin given. Fluid analysis
   showed 175 WBC,  36 polys,gram stain + cx pending.
   Microbiology: Diagnostic tap of 14th, no growth
   Therapeutic tap y/d: gram stain, cx pending, blood cx x2 pending, urine
   cx showed yeast (10,000-100,000).
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O ASCITES
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
 .H/O HEPATIC ENCEPHALOPATHY
 .H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O HYPOGLYCEMIA
    No evidence of SBP given low WBC on diagnostic tap; tap appears
   bloody; most likely [**1-23**] coagulopathy, though consistent appearance of
   this finding might suggest hemoperitoneum from another process rather
   than from trauma from tap; CT apparently offers no obvious suspect. No
   sign of perf on CT scan. Surgery evaluating per ED request. Possible
   gastric outlet obstruction seen on CT scan; may improve w decrease in
   ascitic fluid. U/S done, shows partial stenosis of the portal vein. No
   tap at this time due to risk of worsening hepatorenal syndrome,
   however, if worsening hypotension/renal failure, may need to tap due to
   compartment syndrome. Bladder pressure of 24 yesterday.
   .
   LIVER CIRRHOSIS, ETOH, w/ encephalopathy Hepatorenal syndrome worsens
   prognosis. Could have been precipitated by large volume tap on prior
   admission, though pt has tolerated similar (~5L) in the past. Pt has
   been on transplant list. MELD on admission =  41. U/S shows some
   stenosis from TIPS in protal circulation.
   * bowel movements *
   -MS improved.
   - Being worked up for liver/renal transplant, f/u workup with
   transplant surgery team. Liver following, appreciate recs.
   .
   Continue octreotide and midrodrine
   - home lactulose dose
   - continue home rifaximin.
   .
    RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) Likely [**1-23**] hepatorenal
   syndrome, perhaps [**1-23**] large volume tap on last admission; vs change in
   hemodynamics [**1-23**] infection; vs compartment syndrome from ascites
   causing pre-renal picture. FeNa on admission 0.6.
   .
   Bladder pressure pre tap 20, post tap: *
   Improved hyperkalemia, acidosis w lactate of *
   HD today.
   - NGT if not tolerating clears, emesis, etc
   - clear liquid diet for now
   - Cont zosyn
 d/c when cultures negative
   - holding metformin - contributing to lactic acidosis
   - renal following, appreciate recs.
   .
   HYPOTENSION Possibly due to decreased venous return due to abdominal
   pressure vs infection/sepsis vs hypovolemia due to fluid sequestration
   as ascites.
   Hypotension: related to HRS
   holding diuretics, propranolol.
   -levophed for SBP <80 titrate to MAPs > 65.
   - zosyn empirically for infection, consider adding flagyl/vanco if
   appears more toxic.
   .
   ALTERED MENTAL STATUS (NOT DELIRIUM) Per family report, patient
   currently appears to have intact mental status, however, appears
   confused at times, with mumbling and groaning on.  Possibly due to
   hepatic encephalopathy (NH3 = 66 on admission) vs infection, UTI vs
   SBP, vs acidemia. Remains afebrile.
   Clinically improved, not trending albumin
   - Lactulose - titrate to 3 BM per day
   - follow culture results
   - holding metformin
   - trend lactate
   - restraints if needed
   .
   COAGULOPATHY Assoc w liver failure. Got 6U FFP for HD line placement.
   Holding coumadin for now. PT: 17.2  PTT: 32.7  INR: 1.5 Sunday pm*
   - continue to trend coags
   - give vit K for goal INR <2.
   - consider FFP for procedures
   .
    LACTIC ACIDOSIS Most likely [**1-23**] liver failure itself, though metformin
   toxicity in setting of new renal failure may also be responsible.
   Mesenteric ischemia could be culprit; no positive evidence for this at
   this point, but should follow closely.
   Lactate 2.4 (Sunday pm) from peak 9.
   - trend lactate
   - hold metformin
   - guaiac stool
   - follow AG
   .
   Leukocytosis Unclear source. Concern for abdominal source but as above
   this is not clear after dx tap and CT abd/pelvis, RLL opacity; hard to
   account for this degree of WBC with this small PNA though relative
   immune suppression of liver/renal failure may diminish inflammatory
   response. High WBC out of proportion to symptoms, with abd pain, in pt
   w multiple hospitalizations, raises special concern for c. diff though
   obvious colitis not seen on CT. Resolved since admission.
   resolved: WBC today 6.5 from 10.2
   - f/u urine, blood and ascites cultures, c.diff toxin negative.
   - continue empiric gram negative coverage with zosyn per liver's
   request *
   Zosyn day: 3.
   - consider adding vanco and flagyl if clinical status is worsening
   - trend with CBC with diff
   Hyperkalemia Likely in the setting of renal disease at admission, has
   resolved from 6.5 to 5.6. Currently stable at 4.3*
   - Check lytes q12h
   - Check EKG if K+ increases
    .
   DIABETES Holding oral antihyperglycemics based on low blood sugar in ED
   . Now hyperglycemic on floor to 250s, currently 136 after 16 U insulin.
   Glipizide 10 mg DAILY
   Metformin 1,000 mg [**Hospital1 **]
   Hold metformin. Lactate yd p, [**1-22**]. Repeat today.
    ISS alone for now. Has had more issues with high blood sugar than low
   in the past.
   Blood sugars during day *
   - cont. ISS
   ACCESS
   - if requires further pressors place central line - IJ with ultrasound.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2119-8-4**] 11:27 PM
   Arterial Line - [**2119-8-5**] 12:15 PM
   18 Gauge - [**2119-8-5**] 12:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: omeprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Consider floor

2119-08-07 09:27:00 Physician Attending Progress Note
Chief Complaint: liver failure ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PARACENTESIS - At [**2119-8-6**] 04:00 PM - 5 liters tolerated well
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2119-8-7**] 02:00 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2119-8-7**] 08:47 AM
   Other medications:
   Rifaximin, PPI, Octreotide, Midrodrine, Lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-8-7**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.1
   HR: 49 (49 - 67) bpm
   BP: 110/44(63) {90/36(52) - 173/75(109)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 85.5 kg (admission): 87.2 kg
   CVP: 9 (7 - 212)mmHg
   Total In:
                                                                  1,055 mL
                                                                    650 mL
   PO:
                                                                    320 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    235 mL
                                                                     50 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  5,838 mL
                                                                    265 mL
   Urine:
                                                                    338 mL
                                                                    265 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
                                                                  5,000 mL
   Balance:
                                                                 -4,783 mL
                                                                    385 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.41/39/104/24/0
   Physical Examination
   Gen: lying in bed, complains of abd pain and foley pain
   HEENT: op clear
   CV: RR
   Ches: scattered rales with ext wheezes
   Abd: decreased distension, hypoactive bowel sounds
   Ex: trace edema
   Neuro: alert and answering questions
 asking to have foley out and
   getting agitated
   Labs / Radiology
   8.7 g/dL
   99 K/uL
   182 mg/dL
   4.2 mg/dL
   24 mEq/L
   3.8 mEq/L
   38 mg/dL
   103 mEq/L
   138 mEq/L
   25.3 %
   5.2 K/uL
        [image002.jpg]
                             [**2119-8-4**]  11:47 PM
                             [**2119-8-5**]  06:08 AM
                             [**2119-8-5**]  09:12 AM
                             [**2119-8-5**]  07:00 PM
                             [**2119-8-5**]  11:28 PM
                             [**2119-8-6**]  04:10 AM
                             [**2119-8-6**]  03:06 PM
                             [**2119-8-6**]  03:07 PM
                             [**2119-8-6**]  03:17 PM
                             [**2119-8-7**]  04:09 AM
   WBC
   9.8
   10.2
   7.6
   7.4
   6.5
   5.2
   Hct
   24.5
   24.7
   24.8
   26.0
   26.2
   27.8
   25.3
   Plt
   135
   110
   104
   115
   105
   99
   Cr
   7.5
   4.8
   5.2
   2.1
   3.5
   3.8
   4.2
   TCO2
   26
   Glucose
   99
   59
   74
   175
   206
   256
   182
   Other labs: PT / PTT / INR:16.5/33.1/1.5, ALT / AST:18/28, Alk Phos / T
   Bili:184/1.8, Differential-Neuts:79.0 %, Lymph:11.9 %, Mono:6.1 %,
   Eos:2.8 %, D-dimer:1656 ng/mL, Fibrinogen:504 mg/dL, Lactic Acid:2.4
   mmol/L, Albumin:3.1 g/dL, LDH:130 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O ASCITES
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
 .H/O HEPATIC ENCEPHALOPATHY
 .H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O HYPOGLYCEMIA
   1.       Acute Renal Failure: DDX pre renal versus evolving hepatorenal
 he also had a bladder pressure of 24-  rasigin ? of abd hypertension.
   He is making some ruine but per renal plan for HD today. Watch lytes
   and renally dose all meds. [**Month (only) 11**] repeat 1 mg/kg albumin challenge today
   as part of ongoing HRX plan but we will discuss further with renal and
   hepatology teams.
   2.       ESLD: MELD is high and with HRS concerning, liver team
   following. Consulted transplant surgery following and ongoing work up
   for listing.
   3.       Acidosis: lactic- DDX is poor forward flow versus metformin
   induced in setting of liver failure with poor clearance. Resolving.
   Holding metformin, had HD, we will continue to follow
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: advance
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2119-8-4**] 11:27 PM
   Arterial Line - [**2119-8-5**] 12:15 PM
   18 Gauge - [**2119-8-5**] 12:30 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  with family
   Code status: Full code
   Disposition : tx to [**Hospital Ward Name 408**] 10